US05318966
439 g (2.49 mol) of 5-methoxy-2-tetralone and 227 ml (3.67 mol) of pyrrolidine were dissolved in 3 l of toluene. After the addition of 16.4 g (0.09 mol) of p-toluenesulfonic acid monohydrate the mixture was boiled for 4 hours, whereby the resulting water was removed continuously using a water separator. Thereupon, the toluene was distilled off in a vacuum. The residue was dissolved in 1 l of tetrahydrofuran, whereupon a solution of 500 g (2.70 mol) of iodoacetamide in 2.5 l of tetrahydrofuran was added dropwise at room temperature. The mixture was boiled at reflux for 30 minutes, then cooled to room temperature and stirred for a further 12 hours. The solid was filtered off and washed with tetrahydrofuran. There were obtained 475 g (89%) of 1,3,4,5-tetrahydro-6-methoxy-2H-benzo[e]indol-2-one as white crystals with m.p. 220°-222°.

reactant | 5-methoxy-2-tetralone | 2.49 mol, 439 g | COC1=C2CCC(CC2=CC=C1)=O | C11H12O2
reactant | pyrrolidine | 3.67 mol, 227 ml | N1CCCC1 | C4H9N
reactant | iodoacetamide | 2.70 mol, 500 g | ICC(=O)N | C2H4INO
solvent | toluene | 3 l | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 l | O1CCCC1 | C4H8O
catalyst | p-toluenesulfonic acid monohydrate | 0.09 mol, 16.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1,3,4,5-tetrahydro-6-methoxy-2H-benzo[e]indol-2-one | 475 g, 89% | COC1=CC=CC=2C=3CC(NC3CCC21)=O | C13H13NO2
